US03931407
b. 1-(3-Carboxyphenyl)-4,5-dihydro-2-phenylbenz[g]indole ##SPC22##
A solution of 10.5 g. (0.04 mole) of 2-phenacyl-1-tetralone (m.p. 73°-76°), 5.5 g. (0.04 mole) of m-aminobenzoic acid, and 35 ml. of glacial acetic acid was heated under reflux for 31/2 hours, cooled and filtered. The filter cake was washed with water and dried to provide 8.6 g. of solid, m.p. 225°-228°. Recrystallization from ethanol and from ethanol-water gave off-white crystals, m.p. 253.5°-255°.

reactant | 2-phenacyl-1-tetralone | 0.04 mole | C(C(=O)C1=CC=CC=C1)C1C(C2=CC=CC=C2CC1)=O | C18H16O2
reactant | m-aminobenzoic acid | 0.04 mole | NC=1C=C(C(=O)O)C=CC1 | C7H7NO2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1-(3-Carboxyphenyl)-4,5-dihydro-2-phenylbenz[g]indole | C(=O)(O)C=1C=C(C=CC1)N1C(=CC=2CCC3=C(C12)C=CC=C3)C3=CC=CC=C3 | C25H19NO2
